US05523404
Methyl 3-amino-2-chloro-2-pentenoate
A solution of 47.5 g (0.75 mol) of ammonium formate and 49.0 g (0.3 mol) of methyl 2-chloro-3-oxovalerate in 800 ml of ethanol is reacted and worked up in analogy to Example 2. Yield: 72.0% [GC]

reactant | ammonium formate | 0.75 mol, 47.5 g | C(=O)[O-].[NH4+]
reactant | methyl 2-chloro-3-oxovalerate | 0.3 mol, 49.0 g | ClC(C(=O)OC)C(CC)=O | C6H9ClO3
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | Methyl 3-amino-2-chloro-2-pentenoate | Yield: 72.0% | NC(=C(C(=O)OC)Cl)CC | C6H10ClNO2
